US07960552B2
A solution of [3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methanol (50 mg, 0.21 mmol) in dichloromethane (2.1 mL) was added to a mixture of methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate (57 mg, 0.21 mmol) and triphenyl phosphine (82 mg, 0.31 mmol) in a microwave reaction tube. Diisopropyl azodicarboxylate (60 μL, 0.31 mmol) was added before the tube was sealed and heated for 20 minutes at 100° C. The mixture was concentrated and the residue was purified by chromatography (silica gel, hexane to 2:3 ethyl acetate:hexanes). Fractions containing the product were combined and concentrated. The residue was purified by chromatography (silica gel, 10:9:1 hexanes:dichloromethane:ethyl acetate) to provide methyl 6-[4-({[3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (11 mg, 11% as 0.10 ethyl acetate). 1H NMR (400 MHz, CDCl3): δ 8.37-8.32 (m, 2H), 8.22 (d, J=9 Hz, 1H), 8.05-8.00 (m, 2H), 7.69 (d, J=9 Hz, 2H), 7.08 (d, J=9 Hz, 2H), 4.99 (s, 2H), 4.58 (s, 2H), 4.09 (s, 3H), 3.99-3.97 (m, 1H), 3.27 (septet, J=7 Hz, 1H), 1.70-1.59 (m, 6H), 1.49-1.46 (m, 2H), 1.33 (d, J=7 Hz, 6H).

reactant | [3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methanol | 0.21 mmol, 50 mg | C1(CCCC1)OCC1=NOC(=C1CO)C(C)C | C13H21NO3
reactant | methyl 6-(4-hydroxyphenyl)-2-quinolinecarboxylate | 0.21 mmol, 57 mg | OC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC | C17H13NO3
reactant | triphenyl phosphine | 0.31 mmol, 82 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 0.31 mmol, 60 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 2.1 mL | ClCCl | CH2Cl2
product | methyl 6-[4-({[3-[(cyclopentyloxy)methyl]-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 11 mg, 11% | C1(CCCC1)OCC1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C30H32N2O5
